US06093727
1-Hydroxy-7-nitro-tetralin.
A suspension of 7-nitro-1-tetralone (2.00 g, 10.5 mmol) in EtOH (15 mL) was cooled by an ice water bath and treated with NaBH4 (0.40 g, 10.6 mmol) . The mixture was stirred at room temperature for 2 h and then poured into ice water (50 mL) and extracted with EtOAc (3×20 mL). The extract was washed with NaCl solution, dried (MgSO4), filtered and concentrated to give a white solid (1.92 g, 95% yield).

reactant | 7-nitro-1-tetralone | 10.5 mmol, 2.00 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=O | C10H9NO3
reactant | NaBH4 | 10.6 mmol, 0.40 g | [BH4-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
product | 1-Hydroxy-7-nitro-tetralin | 1.92 g, 95% yield | OC1CCCC2=CC=C(C=C12)[N+](=O)[O-] | C10H11NO3
